US07101868B2
N-[3,3-Dimethyl-1-(1-methyl-piperidin-4-ylmethyl)-2,3-dihydro-1H-indol-6-yl]-2-(4-fluoro-benzylamino)-nicotinamide
To N-(3,3-dimethyl-1-piperidin-4-ylmethyl-2,3-dihydro-1H-indol-6-yl)-2-(4-fluoro-benzylamino)-nicotinamide (0.92 g) dissolved in DCE (20 mL) at RT was added formaldehyde (37% aqueous, 0.42 mL) followed by NaBH(OAc)3 (1.59 g). After 4 h, the mixture was quenched with 1 N HCl (20 mL) and H2O (20 mL). It was basified with sat NaHCO3, extracted with CH2Cl2 (3×50 mL) and the combined extracts were washed with brine, dried (K2CO3) and concentrated onto SiO2 (previously treated with 10% MeOH (2 M NH3 in MeOH/CH2Cl2 and then concentrated in vacuo). The residue was purified by flash chromatography (Isco, 35 g column, 1-7% MeOH (2M NH3 in MeOH/CH2Cl2). The bulk of the crude yellow material was further purified by reverse phase Prep HPLC. The isolated fractions were partially concentrated and basified with 1 N NaOH and dried under vacuum to afford a slightly yellow powder. M+H=502.3. Calc'd for C30H36FN5O: 501.29.

reactant | N-(3,3-dimethyl-1-piperidin-4-ylmethyl-2,3-dihydro-1H-indol-6-yl)-2-(4-fluoro-benzylamino)-nicotinamide | 0.92 g | CC1(CN(C2=CC(=CC=C12)NC(C1=C(N=CC=C1)NCC1=CC=C(C=C1)F)=O)CC1CCNCC1)C | C29H34FN5O
reactant | formaldehyde | 0.42 mL | C=O | CH2O
reactant | NaBH(OAc)3 | 1.59 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | N-[3,3-Dimethyl-1-(1-methyl-piperidin-4-ylmethyl)-2,3-dihydro-1H-indol-6-yl]-2-(4-fluoro-benzylamino)-nicotinamide | CC1(CN(C2=CC(=CC=C12)NC(C1=C(N=CC=C1)NCC1=CC=C(C=C1)F)=O)CC1CCN(CC1)C)C | C30H36FN5O
